.subckt RPOT 1 2 3
R1 1 2 {value*ratio}
R2 2 3 {value*(1-ratio)}
* below are default parameters, which are required by some simulators
.param value=1k
.param ratio=1
.ends
